US05686426
(2S,3R,4E)-3-Benzoyloxy-2-hexadecanoylamino-1-(3-O-benzoyl-4,6-di-O-tert-butyloxycarbonylmethyl-β-D-galactopyranosyloxy)-4-octadecene
A solution of (2S,3R,4E)-2-azido-3-benzoyloxy-1-(4,6-di-O-tert-butyloxycarbonylmethyl-β-D-galactopyranosyloxy)-4-octadecene described in Example 15-A (1.34 g 1.63 mmol) in a mixture of pyridine/methylene chloride (1:1, 70 mL) was treated with benzoyl chloride (210 μL, 1.81 mmol) at -78° C. The mixture was stirred at -78° C. for 1 hour, then methanol (10 mL) was added and the resulting mixture was stirred at 22° C. for 20 more hours. The solvents were evaporated and the residue was dissolved in ethyl acetate (200 mL). This solution was washed with water (4×75 mL), saturated aqueous sodium bicarbonate (2×100 mL) and brine (2×100 mL), dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (150 g, 5 to 50 % ethyl acetate/hexane) and gave the title compound (0.275 g, 20%), along with the starting material (0.839 g, 63%), the 2-benzoate (0.124 g, 8%) and the bis-benzoate (0.030 g, 2%).

reactant | (2S,3R,4E)-2-azido-3-benzoyloxy-1-(4,6-di-O-tert-butyloxycarbonylmethyl-β-D-galactopyranosyloxy)-4-octadecene | N(=[N+]=[N-])[C@@H](CO[C@H]1[C@H](O)[C@@H](O)[C@@H](OCC(=O)OC(C)(C)C)[C@H](O1)COCC(=O)OC(C)(C)C)[C@@H](\C=C\CCCCCCCCCCCCC)OC(C1=CC=CC=C1)=O | C43H69N3O12
reactant | benzoyl chloride | 1.81 mmol, 210 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methanol | 10 mL | CO | CH4O
solvent | pyridine methylene chloride | 70 mL | N1=CC=CC=C1.C(Cl)Cl
product | (2S,3R,4E)-3-Benzoyloxy-2-hexadecanoylamino-1-(3-O-benzoyl-4,6-di-O-tert-butyloxycarbonylmethyl-β-D-galactopyranosyloxy)-4-octadecene | 0.275 g, 20% | C(C1=CC=CC=C1)(=O)O[C@@H]([C@H](CO[C@H]1[C@H](O)[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OCC(=O)OC(C)(C)C)[C@H](O1)COCC(=O)OC(C)(C)C)NC(CCCCCCCCCCCCCCC)=O)\C=C\CCCCCCCCCCCCC | C66H105NO14
